US08232294B2
Step 4) 1-(3-(4-(4-(2,3-dimethyl-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-4-carbox-amido)-2-fluorophenoxy)quinolin-7-yloxy)propyl)cyclopropyl 2-(tert-butoxy-carbonylamino)acetate
To a mixture of N-(3-fluoro-4-(7-(3-(1-hydroxycyclopropyl)propoxy)-quinolin-4-yl-oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (218 mg, 0.374 mmol), N-Boc-glycine (133.4 mg, 0.768 mmol, Alfa), and DMAP (7.03 mg, 0.058 mmol, Aladdin) in 10 mL of dichloromethane was added DCC solid (323.4 mg, 1.54 mmol, Aldrich) slowly at 0° C. The reaction was then warmed up to rt and continued to stir at rt overnight. The mixture was filtered and the solid was washed with CH2Cl2 (10 mL×2). The combined organic phases were washed with 15 mL of saturated NaHCO3 solution followed by 15 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on a silica gel column (PE:EtOAc=1:6) to give the desired compound as a yellow solid (160 mg, 60%).

reactant | N-(3-fluoro-4-(7-(3-(1-hydroxycyclopropyl)propoxy)-quinolin-4-yl-oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.374 mmol, 218 mg | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OCCCC1(CC1)O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C33H31FN4O5
reactant | N-Boc-glycine | 0.768 mmol, 133.4 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | DCC | 1.54 mmol, 323.4 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.058 mmol, 7.03 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(3-(4-(4-(2,3-dimethyl-5-oxo-1-phenyl-2,5-dihydro-1H-pyrazole-4-carbox-amido)-2-fluorophenoxy)quinolin-7-yloxy)propyl)cyclopropyl 2-(tert-butoxy-carbonylamino)acetate | 160 mg, 60% | C(C)(C)(C)OC(=O)NCC(=O)OC1(CC1)CCCOC1=CC=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)NC(=O)C1=C(N(N(C1=O)C1=CC=CC=C1)C)C)F | C40H42FN5O8
